US09388180B2
1.1 tert-butyl thiazol-5-ylcarbamate
A mixture of DPPA (31.1 g, 113 mmol), Et3N (23.70 mL, 170 mmol) and thiazole-5-carboxylic acid (8.0 g, 61.9 mmol) in tert-BuOH (190 mL) was heated to 90° C. for 12 h in a 500 mL round-bottomed flask. After cooling, the solvent was evaporated in vacuo. The residue was diluted with water. The aqueous layer was extracted with ethyl acetate (3×100 mL). The combined organic phase was washed with brine, dried, concentrated under reduced pressure to give crude product. The crude product was purified by column chromatography on silica gel (EA/heptane=1/10) to give the title compound (5.0 g, 24.97 mmol, 40.3%) as a white solid.

reactant | DPPA | 113 mmol, 31.1 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | Et3N | 170 mmol, 23.70 mL | CCN(CC)CC | C6H15N
reactant | thiazole-5-carboxylic acid | 61.9 mmol, 8.0 g | S1C=NC=C1C(=O)O | C4H3NO2S
reactant | tert-BuOH | 190 mL | C(C)(C)(C)O | C4H10O
product | tert-butyl thiazol-5-ylcarbamate | 24.97 mmol, 5.0 g, 40.3% | S1C=NC=C1NC(OC(C)(C)C)=O | C8H12N2O2S
